US07893074B2
Preparation of 2-(5-bromo-2-chloropyrimidin-4-ylamino)benzenesulfonamide
To a solution of 5-bromo-2,4-dichloropyrimidine (300 mg, 1.32 mmol) and 2-amino-benzenesulfonamide (340 mg, 1.97 mmol) in 2-propanol (3 mL), concentrated hydrochloric acid (0.06 mL) is added and the mixture is stirred at 90° C. for 4.5 hours. The mixture is poured into aqueous sodium hydrogen carbonate and extracted with ethyl acetate three times. The organic layer is washed with water, dried over sodium sulfate, and evaporated in vacuo. The residue is purified by column chromatography (hexane:ethyl acetate=2:1) to afford the title compound.

reactant | 5-bromo-2,4-dichloropyrimidine | 1.32 mmol, 300 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 2-amino-benzenesulfonamide | 1.97 mmol, 340 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | hydrochloric acid | 0.06 mL | Cl | ClH
product | 2-(5-bromo-2-chloropyrimidin-4-ylamino)benzenesulfonamide | BrC=1C(=NC(=NC1)Cl)NC1=C(C=CC=C1)S(=O)(=O)N | C10H8BrClN4O2S
